US07737279B2
A293.1: 3-fluoro-5-((trimethylsilyl)ethynyl)benzonitrile
A solution of 3-bromo-5-fluorobenzonitrile (2.5 g, 12.5 mmol), (trimethylsilyl)acetylene (2.86 ml, 20 mmol), bis(acetate)bis(triphenylphoshpino) Palladium(II) (936 mg, 1.25 mmol) and triethylamine (35 ml) in toluene (35 ml) was 15 degassed by bubbling nitrogen through the solution and then stirred at 95° C. for 30 minutes. Filtration and concentration to yield a crude product. It was diluted with EtOAc (150 ml). The organic phase was washed with saturated NaHCO3 solution (50 ml), brine (50 ml) and the organic layer was dried over sodium sulfate. Filtration and concentration to yield a product A293.1 (2.4 g, 88%). HPLC: 95%, retention time: 4.05 minute (condition A). LC/MS (M+H)+=218.2.

reactant | 3-bromo-5-fluorobenzonitrile | 12.5 mmol, 2.5 g | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | (trimethylsilyl)acetylene | 20 mmol, 2.86 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-5-((trimethylsilyl)ethynyl)benzonitrile | FC=1C=C(C#N)C=C(C1)C#C[Si](C)(C)C | C12H12FNSi
